US09212187B2
Synthesis of 1-methyl-4-{3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propoxy}-1H-quinolin-2-one trihydrochloride
Triphenyl phosphine(102 mg) and diethyl azodicarboxylate(68 mg) were added to a tetrahydrofuran (THF) solution(5 ml) of 4-hydroxy-1-methyl-1H-quinolin-2-one(63 mg), and 3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propane-1-ol(81.4 mg). The mixture was stirred overnight. After the reaction mixture was condensed under reduced pressure, the residue was purified by silica gel column chromatography (dichloromethane: methanol=20:1→10:1). The purified product was condensed under reduced pressure. A 4N-hydrogen chloride ethyl acetate solution(0.29 ml) was added to an ethyl acetate solution of the residue, which was stirred at room temperature for 30 minutes. The generated insoluble matter was separated by filtration, and dried to give the title compound(126.8 mg) as a white powder.

reactant | Triphenyl phosphine | 102 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 68 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-hydroxy-1-methyl-1H-quinolin-2-one | 63 mg | OC1=CC(N(C2=CC=CC=C12)C)=O | C10H9NO2
reactant | 3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propane-1-ol | 81.4 mg | N1=CC(=CC=C1)CCN(CCCO)CC1=CC=NC=C1 | C16H21N3O
reactant | hydrogen chloride ethyl acetate | 0.29 ml | C(C)OC(C)=O.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-methyl-4-{3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propoxy}-1H-quinolin-2-one trihydrochloride | 126.8 mg | Cl.Cl.Cl.CN1C(C=C(C2=CC=CC=C12)OCCCN(CC1=CC=NC=C1)CCC=1C=NC=CC1)=O | InChI=1S/C26H28N4O2.3ClH/c1-29-24-8-3-2-7-23(24)25(18-26(29)31)32-17-5-15-30(20-22-9-13-27-14-10-22)16-11-21-6-4-12-28-19-21;;;/h2-4,6-10,12-14,18-19H,5,11,15-17,20H2,1H3;3*1H
